US07485732B2
Step 5 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile
A solution of 8.0 g (24.0 mmole) of 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile and 11.7 g (36 mmole) of Cs2CO3 in 50 mL of dry CH3CN was divided between two 80 mL microwave tubes. The tubes were irradiated in a microwave oven (with cooling) at 160° C. for 8 h. The samples were filtered and the solids were washed with 20 mL of CH3CN and then 20 mL of CH2Cl2. The combined filtrates were concentrated and the residue was portioned between 300 mL ethyl acetate and 100 mL water. The layers were separated and the aqueous layer was washed with 100 mL ethyl acetate. The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash chromatography using 10-20% ethyl acetate in CH2Cl2 to afford the title compound as a clear oil; 1H-NMR(CDCl3) δ 1.6 (s, 2H, br), 5.24 (s, 1H), 7.24-7.78 (m, 8H) 2.89 (m, 2H), 3.54 (m, 2H), 4.39 (s, 1H), 4.52 (m, 1H), 7.27-7.8 (m, 8H).

reactant | 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile | 24.0 mmole, 8.0 g | ClCC(CN[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl)O | C17H16Cl2N2O
reactant | Cs2CO3 | 36 mmole, 11.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)O | C17H15ClN2O
